US05849746
5. 4-Benzyl-2-hydroxymethyl-1-[3-(5-(1,2,4-triazol-4-yl)-1H-indol-3-yl)propyl]piperazine oxalate
A mixture of 4-benzyl-2-hydroxymethyl-1-(5,5-dimethoxypentyl)piperazine (245 mg, 0.73 mmol) and 4-(1,2,4-triazol-4-yl)phenylhydrazine (127 mg, 0.73 mmol) in 4% H2SO4 (8 mL) was heated at reflux overnight. The solution was basified using sat. K2CO3 solution and extracted with nBuOH (2×30 mL). The combined organic layers were evaporated and the residue chromatographed on silica gel, eluting with CH2Cl2 :MeOH:NH3 (90:10:1). The title compound (73 mg, 23%) was isolated as a pale yellow foam. The free base was converted to the oxalate salt by treatment with oxalic acid in methanol/water. mp 130°-132° C. Found: C, 59.90; H, 6.18; N, 15.35%. C25 H30N6O. 1.3 (C2H2O4). 0.3 (H2O). 0.1 (Et2O) requires C, 60.01; H, 6.15; N, 15.00%. 1H NMR (360 MHz, d6 -DMSO) δ 1.92-2.10 (2H, m), 2.36-2.46 (2H, m), 2.70-3.06 (6H, m), 3.14-3.36 (3H, m), 3.57-3.72 (4H, m), 7.24-7.40 (7H, m), 7.49 (1H, d, J=8.6 Hz), 7.79 (1H, s), 8.99 (2H, s), 11.19 (1H, br s).

reactant | 4-benzyl-2-hydroxymethyl-1-(5,5-dimethoxypentyl)piperazine | 0.73 mmol, 245 mg | C(C1=CC=CC=C1)N1CC(N(CC1)CCCCC(OC)OC)CO | C19H32N2O3
reactant | 4-(1,2,4-triazol-4-yl)phenylhydrazine | 0.73 mmol, 127 mg | N=1N=CN(C1)C1=CC=C(C=C1)NN | C8H9N5
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
solvent | H2SO4 | 8 mL | OS(=O)(=O)O | H2O4S
product | 4-Benzyl-2-hydroxymethyl-1-[3-(5-(1,2,4-triazol-4-yl)-1H-indol-3-yl)propyl]piperazine oxalate | 73 mg, 23% | C(C(=O)O)(=O)O.C(C1=CC=CC=C1)N1CC(N(CC1)CCCC1=CNC2=CC=C(C=C12)N1C=NN=C1)CO | InChI=1S/C25H30N6O.C2H2O4/c32-17-23-16-29(15-20-5-2-1-3-6-20)11-12-30(23)10-4-7-21-14-26-25-9-8-22(13-24(21)25)31-18-27-28-19-31;3-1(4)2(5)6/h1-3,5-6,8-9,13-14,18-19,23,26,32H,4,7,10-12,15-17H2;(H,3,4)(H,5,6)
